US05552409
a. 3-(3-chlorobenzoyl)propionic acid
Sodium (11 g, spheres) was added to 200 ml ethanol with stirring. When the gas evolution ceased, methyl 3-chlorobenzoate (10 g, 0.057 mole) and dimethyl succinate (9.0 g, 0.615 mole) were added rapidly and the mixture was stirred for 5 minutes at room temperature. The mixture was slowly concentrated on a rotary evaporator to yield a greenish paste which was slurried in 100 ml ether and an additional 2 ml of dimethyl succinate was added. The reaction was evaporated to a paste, quenched with water and extracted with ether. The ether extracts were washed with water and brine, dried and evaporated in vacuo.

reactant | Sodium | 11 g | [Na] | Na
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | methyl 3-chlorobenzoate | 0.057 mole, 10 g | ClC=1C=C(C(=O)OC)C=CC1 | C8H7ClO2
reactant | dimethyl succinate | 0.615 mole, 9.0 g | C(CCC(=O)OC)(=O)OC | C6H10O4
reactant | dimethyl succinate | 2 ml | C(CCC(=O)OC)(=O)OC | C6H10O4
solvent | ether | 100 ml | CCOCC | C4H10O
product | 3-(3-chlorobenzoyl)propionic acid | ClC=1C=C(C(=O)CCC(=O)O)C=CC1 | C10H9ClO3
